US07041685B2
{4-[5-(3-Chloro-thiophen-2-yl)-[1,2,4]-oxadiazol-3-yl]-phenoxy}-acetic acid methyl ester
The title compound was prepared from 4-[5-(3-chloro-thiophen-2-yl)-[1,2,4]-oxadiazol-3-yl]-phenol and methyl bromoacetate by a procedure similar to that of Example 37 as a white solid, (30.3 mg, 52.0%). 1H NMR (DMSO-d6): 8.18 (d, J=5.1 Hz, 1H), 8.00 (d, J=8.7 Hz, 2H), 7.42 (d, J=5.1 Hz, 1H), 7.15 (d, J=9.0 Hz, 2H), 4.90 (s, 2H), 1.2 (m, 3H).

reactant | 4-[5-(3-chloro-thiophen-2-yl)-[1,2,4]-oxadiazol-3-yl]-phenol | ClC1=C(SC=C1)C1=NC(=NO1)C1=CC=C(C=C1)O | C12H7ClN2O2S
reactant | methyl bromoacetate | BrCC(=O)OC | C3H5BrO2
product | {4-[5-(3-Chloro-thiophen-2-yl)-[1,2,4]-oxadiazol-3-yl]-phenoxy}-acetic acid methyl ester | COC(COC1=CC=C(C=C1)C1=NOC(=N1)C=1SC=CC1Cl)=O | C15H11ClN2O4S
